US05948804
5-Nitro-7-bromobenzothiazole
To a solution of 5 -nitro-6-amino-7-bromobenzothiazole (1.0 g, 3.7 mmol) in 4 mL of sulfuric acid was added nitrososulfuric acid (1.2 g, 9.5 mmol) in a portion. The resulting reaction mixture was stirred for 12 h at 25° C. The reaction mixture was then cooled to 0° C. and 1 mL of H3PO2 was added into the solution. It was stirred for 12 h at another 25° C. and for 2 h at 50° C. The reaction mixture was then poured into EtOAc and washed with aq. NaHCO3. Organic layer was dried over Na2SO4 and concentrated in vacuo to provide an oil (0.85 g, 3.2 mmol, 89%), whicn was characterized as the desired product(>95% pure) and subjected to a following reaction without further purification.

reactant | 5 -nitro-6-amino-7-bromobenzothiazole | 3.7 mmol, 1.0 g | [N+](=O)([O-])C=1C(=C(C2=C(N=CS2)C1)Br)N | C7H4BrN3O2S
reactant | nitrososulfuric acid | 9.5 mmol, 1.2 g | N(=O)OS(O)(=O)=O | HNO5S
reactant | H3PO2 | 1 mL | O[PH2]=O | H3O2P
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | sulfuric acid | 4 mL | S(O)(O)(=O)=O | H2O4S
product | 5-Nitro-7-bromobenzothiazole | 3.2 mmol, 0.85 g, 89% | [N+](=O)([O-])C=1C=C(C2=C(N=CS2)C1)Br | C7H3BrN2O2S
